US08735384B2
To a solution of (2-bromo-3-methylphenyl)methanol (0.5 g, 2.49 mmol), triphenylphosphine (1.31 g, 4.97 mmol) and 2-chloro-5-(trifluoromethyl)phenol (0.37 mL, 2.74 mmol) in DCM (12.4 mL) at 0° C. was added diethyl azodicarboxylate (1.97 mL, 4.97 mmol) and the reaction warmed to RT for 30 min. The reaction was quenched with water and the aqueous layer was extracted with EtOAc. The organic layer was then washed with water and brine (3× ea.), dried over Na2SO4 and concentrated in vacuo. The crude material was purified by column chromatography (0-50% Hexene/EtOAc) to afford 2-bromo-1-((2-chloro-5-(trifluoromethyl)phenoxy)methyl)-3-methylbenzene as a clear oil.

reactant | (2-bromo-3-methylphenyl)methanol | 2.49 mmol, 0.5 g | BrC1=C(C=CC=C1C)CO | C8H9BrO
reactant | triphenylphosphine | 4.97 mmol, 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-5-(trifluoromethyl)phenol | 2.74 mmol, 0.37 mL | ClC1=C(C=C(C=C1)C(F)(F)F)O | C7H4ClF3O
reactant | diethyl azodicarboxylate | 4.97 mmol, 1.97 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | DCM | 12.4 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-((2-chloro-5-(trifluoromethyl)phenoxy)methyl)-3-methylbenzene | BrC1=C(C=CC=C1C)COC1=C(C=CC(=C1)C(F)(F)F)Cl | C15H11BrClF3O
